US04829067
A mixture of 364 mg of 3-methyl-2-phenylbenzofuran-7-nitrile, 3 g of an aqueous 30% sodium hydroxide solution and 8 ml of ethylene glycol is refluxed for 2 hours. After cooling, the reaction mixture is poured into water, acidified with 10% hydrochloric acid and then extracted with ethyl acetate. The extract is washed with a saturated sodium chloride solution, dried and evaporated to remove solvent. The residue is recrystallized from tetrahydrofuran-n-hexane to give 257 mg of 3-methyl-2-phenylbenzofuran-7-carboxylic acid as colorless prisms.

reactant | 3-methyl-2-phenylbenzofuran-7-nitrile | 364 mg | CC1=C(OC2=C1C=CC=C2C#N)C2=CC=CC=C2 | C16H11NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethylene glycol | 8 ml | C(CO)O | C2H6O2
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
product | 3-methyl-2-phenylbenzofuran-7-carboxylic acid | 257 mg | CC1=C(OC2=C1C=CC=C2C(=O)O)C2=CC=CC=C2 | C16H12O3
